US05000775
Ethyl 2-[(1,1-dimethylethyl)amino]-4-(trifluoromethyl)-5-thiazolecarboxylate
A stirred mixture of 2.6 g (10 mmol) of ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate and ml of tert-butylamine was heated at reflux for 20 hours. The mixture was diluted with ethyl ether and washed twice with water. The ether phase was dried with magnesium sulfate and concentrated under reduced pressure to yield 2.85 g of a beige solid material which was recrystallized from methylcyclohexane to yield 2.4 g of a white plate crystal product (m.p.=104°-106° C.) identified in Table 1.

reactant | ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate | 10 mmol, 2.6 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO2S
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
solvent | ethyl ether | C(C)OCC | C4H10O
product | Ethyl 2-[(1,1-dimethylethyl)amino]-4-(trifluoromethyl)-5-thiazolecarboxylate | 2.85 g | CC(C)(C)NC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C11H15F3N2O2S
